US06924276B2
3-Methoxy-thiophene-2,5-dicarboxylic Acid bis-[(1,3-benzodioxol-5-ylmethyl)-amide]
The title compound was prepared according to the procedure of Example 2 using carbonyldiimidazole (1.0 g, 6.2 mmol), 3-methoxy-2,5-thiophenedicarboxylic acid (0.5 g, 2.5 mmol), and piperonylamine (0.85 g, 5.6 mmol) to afford 1.05 g of 3-methoxy-thiophene-2,5-dicarboxylic acid bis-[(1,3-benzodioxol-5-ylmethyl)-amide]. Recrystallization of a sample from dimethylformamide gave product with a mp 191-195° C.

reactant | carbonyldiimidazole | 6.2 mmol, 1.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-methoxy-2,5-thiophenedicarboxylic acid | 2.5 mmol, 0.5 g | COC1=C(SC(=C1)C(=O)O)C(=O)O | C7H6O5S
reactant | piperonylamine | 5.6 mmol, 0.85 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
product | 3-methoxy-thiophene-2,5-dicarboxylic acid bis-[(1,3-benzodioxol-5-ylmethyl)-amide] | 1.05 g | O1COC2=C1C=CC(=C2)CNC(=O)C=2SC(=CC2OC)C(=O)NCC2=CC1=C(OCO1)C=C2 | C23H20N2O7S
